US08404836B2
2.7 g (122.3 mmol) of lithium borohydride is added to a solution of 10 g (41 mmol) of [4-(2-methoxy-ethoxymethoxy)-phenyl]-methyl acetate in 100 ml of tetrahydrofuran. The reaction mixture is stirred at 60° C. for 4 h. After cooling, the reaction mixture is poured into a mixture of ice and saturated aqueous ammonium chloride solution, acidified with aqueous solution of acetic acid of concentration 1M and then extracted with ethyl acetate. The organic phases are combined, washed with saturated sodium chloride solution, and dried over magnesium sulfate. After evaporation of the solvents, 8.9 g (97%) of 2-[4-(2-methoxy-ethoxymethoxy)-phenyl]-ethanol is obtained in the form of a colorless oil.

reactant | lithium borohydride | 122.3 mmol, 2.7 g | [BH4-].[Li+]
reactant | [4-(2-methoxy-ethoxymethoxy)-phenyl]-methyl acetate | 41 mmol, 10 g | C(C)(=O)OCC1=CC=C(C=C1)OCOCCOC | C13H18O5
reactant | ammonium chloride | [Cl-].[NH4+]
reactant | acetic acid | C(C)(=O)O | C2H4O2
solvent | tetrahydrofuran | 100 ml | O1CCCC1 | C4H8O
product | 2-[4-(2-methoxy-ethoxymethoxy)-phenyl]-ethanol | 8.9 g, 97% | COCCOCOC1=CC=C(C=C1)CCO | C12H18O4
